US07662958B2
4-[(Methoxymethoxy)methyl]-2-nitrothiophene-3-sulfonamide (1.8 g, 6.4 mmol) was reacted with iron powder (1.43 g, 4 equivalents) in acetic acid (70 mL) at 50° C. for 7.5 hours then concentrated under reduced pressure. A slurry of the residue in 5% methanol/dichloromethane (60 mL) and water (6 mL) was filtered through silica gel (20 g) and further rinsed with 5% methanol/dichloromethane (300 mL). The filtrate was concentrated under reduced pressure and the residue purified by flash chromatography on silica gel using a Biotage-12s column eluting with 2.5:97.5 methanol: dichloromethane to give 2-amino -4-[(methoxymethoxy)methyl]thiophene-3-sulfonamide (1 g, 62%). 1H NMR (300 MHz, DMSO-d6) δ ppm 3.30 (s, 3H), 4.53 (s, 2H), 4.66 (s, 2H), 6.28 (s, 1H), 6.61 (s, 2H), 6.94 (s, 2H).

reactant | 4-[(Methoxymethoxy)methyl]-2-nitrothiophene-3-sulfonamide | 6.4 mmol, 1.8 g | COCOCC=1C(=C(SC1)[N+](=O)[O-])S(=O)(=O)N | C7H10N2O6S2
solvent | acetic acid | 70 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 1.43 g, 4 equivalents | [Fe] | Fe
product | 2-amino -4-[(methoxymethoxy)methyl]thiophene-3-sulfonamide | 1 g, 62% | NC=1SC=C(C1S(=O)(=O)N)COCOC | C7H12N2O4S2
